US04018802
Step C. Methyl 8-methylsulfonyl-12-acetoxy-13,13-dimethyl-10-heptadecynoate
The synthesis of this compound is carried out by the procedure of Example 3, Step D, except that methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate is replaced by an equivalent quantity of methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxy-13,13-dimethyl-10-heptadecynoate.

reactant | methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate | COC(=O)C(CCCCCCC(=O)OC)(CCCC(CCCCC)OC(C)=O)S(=O)(=O)C | C23H42O8S
reactant | methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxy-13,13-dimethyl-10-heptadecynoate | COC(=O)C(CCCCCCC(=O)OC)(CC#CC(C(CCCC)(C)C)OC(C)=O)S(=O)(=O)C | C25H42O8S
product | Methyl 8-methylsulfonyl-12-acetoxy-13,13-dimethyl-10-heptadecynoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CC#CC(C(CCCC)(C)C)OC(C)=O | C23H40O6S
